US07094908B2
Ethyl 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate was prepared (0.66 g, 50%) in the same manner as described in the above example 5 (20) from ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate (0.60 g, 3.25 mmol) and 4,5-dichlorophthalic anhydride (0.85 g, 3.90 mmol), and the obtained product was identified with the following NMR data.

reactant | ethyl 3-amino-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | 3.25 mmol, 0.60 g | NCC(C(=O)OCC)C1(OCCO1)C | C9H17NO4
reactant | 4,5-dichlorophthalic anhydride | 3.90 mmol, 0.85 g | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
product | Ethyl 3-(5,6-dichloro-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-2-(2-methyl-[1,3]dioxolan-2-yl)propionate | ClC=1C=C2C(N(C(C2=CC1Cl)=O)CC(C(=O)OCC)C1(OCCO1)C)=O | C17H17Cl2NO6
